US03960863
3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,8-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one . dihydrochloride
A mixture of 2.4 g of 3-(2-chloroethyl)-2,8-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 5.9 g of 1-(m-chlorophenyl)piperazine and 25 ml of toluene was refluxed for 30 hours. After completion of the reaction, the rection mixture was then treated in the same manner as in Example 4, and the obtained crude crystals were recrystallized from a mixture of methanol and ethanol to give 2.2 g of the desired compound as pale yellow plates, m.p. 272° - 274°C (decomp.).

reactant | 3-(2-chloroethyl)-2,8-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 2.4 g | ClCCC1=C(N=C2N(C1=O)C=CC(=C2)C)C | C12H13ClN2O
reactant | 1-(m-chlorophenyl)piperazine | 5.9 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-m-Chlorophenyl-1-piperazinyl)ethyl]-2,8-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one . dihydrochloride | 2.2 g | Cl.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC(=C2)C)C | InChI=1S/C22H25ClN4O.2ClH/c1-16-6-9-27-21(14-16)24-17(2)20(22(27)28)7-8-25-10-12-26(13-11-25)19-5-3-4-18(23)15-19;;/h3-6,9,14-15H,7-8,10-13H2,1-2H3;2*1H
